US05420270
10-[(2-bromo-5-pyridinyl)methyl]-8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine
To a stirred solution of 8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine (2 g) in THF (25 mL) at -78° C. was added 1.6 M hexane solution of n-butyl lithium (5.4 mL). After 25 minutes, 3-chloromethyl-6-bromopyridine (1.79 g) in THF (5 mL) was added. After 30 minutes, the temperature was raised to -23° C. After 30 minutes, an excess saturated solution of NH4Cl was added and the mixture was extracted with ether. The organic extract was dried over MgSO4 and concentrated. The residue was chromatographed over silica gel using 10% ethyl acetate in hexane as eluant. Appropriate fractions were pooled to give the title compound (2.8 g) as a thick gum.

reactant | 8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine | 2 g | ClC1=CC2=C(OC3=C(CN2)C=CC=C3)C=C1 | C13H10ClNO
reactant | n-butyl lithium | 5.4 mL | C(CCC)[Li]
reactant | 3-chloromethyl-6-bromopyridine | 1.79 g | ClCC=1C=NC(=CC1)Br | C6H5BrClN
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.6 M | CCCCCC | C6H14
product | 10-[(2-bromo-5-pyridinyl)methyl]-8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine | 2.8 g | BrC1=NC=C(C=C1)CN1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)Cl | C19H14BrClN2O
